*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.002/0.002
*-- die chiplet5:  metal layers: 2


.subckt chiplet5
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
*-- p/g port #: 8/8
+nd_1_0_1000_5000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 8.923e-01ns 0.0  9.423e-01ns 2.0e-02  9.467e-01ns 2.0e-02  9.967e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 83.0013
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 1.04325e-12
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 7.672e-02ns 0.0  1.267e-01ns 1.1e-02  6.662e-01ns 1.1e-02  7.162e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 14.4028
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 4.25504e-12
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 4.147e-01ns 0.0  4.647e-01ns 6.0e-02  5.510e-01ns 6.0e-02  6.010e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 10.9743
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 1.50182e-11
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 1.033e-01ns 0.0  1.533e-01ns 2.8e-02  4.180e-01ns 2.8e-02  4.680e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 10.1152
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 9.54718e-12
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 2.475e-01ns 0.0  2.975e-01ns 8.1e-04  9.442e-01ns 8.1e-04  9.942e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 158.846
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 8.10459e-13
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 8.422e-01ns 0.0  8.922e-01ns 3.2e-02  9.217e-01ns 3.2e-02  9.717e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 35.8107
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 1.68976e-12
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 8.555e-02ns 0.0  1.356e-01ns 4.0e-02  2.775e-01ns 4.0e-02  3.275e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 11.6764
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 7.93645e-12
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 6.745e-01ns 0.0  7.245e-01ns 3.1e-02  7.983e-01ns 3.1e-02  8.483e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 23.2328
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 5.30202e-12
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 8.223e-01ns 0.0  8.723e-01ns 1.0e-02  9.488e-01ns 1.0e-02  9.988e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 69.2772
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 8.02163e-13
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 5.124e-01ns 0.0  5.624e-01ns 1.8e-02  8.677e-01ns 1.8e-02  9.177e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 13.7849
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 6.34001e-12
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 6.584e-01ns 0.0  7.084e-01ns 2.5e-02  8.158e-01ns 2.5e-02  8.658e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 23.0948
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 5.17372e-12
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 7.995e-01ns 0.0  8.495e-01ns 1.1e-03  9.106e-01ns 1.1e-03  9.606e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 727.669
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 7.06103e-14
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 4.932e-01ns 0.0  5.432e-01ns 1.5e-02  8.527e-01ns 1.5e-02  9.027e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 16.8446
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 4.97707e-12
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 6.331e-01ns 0.0  6.831e-01ns 2.4e-02  9.293e-01ns 2.4e-02  9.793e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 12.4549
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 9.23541e-12
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 7.777e-01ns 0.0  8.277e-01ns 2.8e-02  8.988e-01ns 2.8e-02  9.488e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 26.1679
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 1.78151e-12
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 5.976e-01ns 0.0  6.476e-01ns 3.4e-02  7.194e-01ns 3.4e-02  7.694e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 22.0422
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 4.83242e-12
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 2.893e-01ns 0.0  3.393e-01ns 1.0e-02  8.882e-01ns 1.0e-02  9.382e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 14.8764
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 9.28289e-12
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 4.322e-01ns 0.0  4.822e-01ns 7.2e-03  7.427e-01ns 7.2e-03  7.927e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 40.1809
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 1.72891e-12
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 1.288e-01ns 0.0  1.788e-01ns 4.0e-02  3.466e-01ns 4.0e-02  3.966e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 10.3874
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 4.49831e-12
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 2.530e-02ns 0.0  7.530e-02ns 5.7e-04  6.047e-01ns 5.7e-04  6.547e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 274.476
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 5.49072e-13
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 3.992e-02ns 0.0  8.992e-02ns 2.0e-02  3.148e-01ns 2.0e-02  3.648e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 16.2718
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 5.05994e-12
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 1.842e-01ns 0.0  2.342e-01ns 8.5e-03  5.366e-01ns 8.5e-03  5.866e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 29.9778
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 4.54705e-13
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 7.753e-01ns 0.0  8.253e-01ns 1.4e-01  8.352e-01ns 1.4e-01  8.852e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 11.0081
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 4.13262e-12
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 1.785e-02ns 0.0  6.785e-02ns 6.2e-03  7.184e-01ns 6.2e-03  7.684e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 20.7068
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 8.57117e-12
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 6.101e-01ns 0.0  6.601e-01ns 6.5e-03  8.785e-01ns 6.5e-03  9.285e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 51.7087
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 3.50044e-12
is_0_0_0_0 0 ns_1_0_0_0 pwl(0 0.0 2.325e-01ns 0.0  2.825e-01ns 8.9e-03  5.987e-01ns 8.9e-03  6.487e-01ns 0.0)
rsesr_0_0_0_0 ns_1_0_0_0 ns_1_0_0_0_ci 27.5994
cs_0_0_0_0 ns_1_0_0_0_ci 0 6.56078e-12
is_0_0_0_1 0 ns_1_0_2000_0 pwl(0 0.0 8.872e-01ns 0.0  9.372e-01ns 1.7e-01  9.398e-01ns 1.7e-01  9.898e-01ns 0.0)
rsesr_0_0_0_1 ns_1_0_2000_0 ns_1_0_2000_0_ci 10.1983
cs_0_0_0_1 ns_1_0_2000_0_ci 0 5.32041e-12
is_0_0_0_2 0 ns_1_0_4000_0 pwl(0 0.0 7.670e-01ns 0.0  8.170e-01ns 1.0e-01  8.255e-01ns 1.0e-01  8.755e-01ns 0.0)
rsesr_0_0_0_2 ns_1_0_4000_0 ns_1_0_4000_0_ci 14.7821
cs_0_0_0_2 ns_1_0_4000_0_ci 0 8.73272e-12
is_0_0_0_3 0 ns_1_0_6000_0 pwl(0 0.0 1.944e-01ns 0.0  2.444e-01ns 7.7e-03  9.016e-01ns 7.7e-03  9.516e-01ns 0.0)
rsesr_0_0_0_3 ns_1_0_6000_0 ns_1_0_6000_0_ci 16.4901
cs_0_0_0_3 ns_1_0_6000_0_ci 0 6.10947e-12
is_0_0_0_4 0 ns_1_0_8000_0 pwl(0 0.0 5.265e-01ns 0.0  5.765e-01ns 6.7e-03  9.277e-01ns 6.7e-03  9.777e-01ns 0.0)
rsesr_0_0_0_4 ns_1_0_8000_0 ns_1_0_8000_0_ci 33.4962
cs_0_0_0_4 ns_1_0_8000_0_ci 0 5.21329e-12
is_0_0_0_5 0 ns_1_0_0_2000 pwl(0 0.0 4.084e-01ns 0.0  4.584e-01ns 7.7e-03  8.570e-01ns 7.7e-03  9.070e-01ns 0.0)
rsesr_0_0_0_5 ns_1_0_0_2000 ns_1_0_0_2000_ci 25.9515
cs_0_0_0_5 ns_1_0_0_2000_ci 0 5.75742e-12
is_0_0_0_6 0 ns_1_0_2000_2000 pwl(0 0.0 4.114e-01ns 0.0  4.614e-01ns 1.1e-02  7.912e-01ns 1.1e-02  8.412e-01ns 0.0)
rsesr_0_0_0_6 ns_1_0_2000_2000 ns_1_0_2000_2000_ci 21.7684
cs_0_0_0_6 ns_1_0_2000_2000_ci 0 1.05799e-12
is_0_0_0_7 0 ns_1_0_4000_2000 pwl(0 0.0 7.430e-01ns 0.0  7.930e-01ns 1.0e-02  8.787e-01ns 1.0e-02  9.287e-01ns 0.0)
rsesr_0_0_0_7 ns_1_0_4000_2000 ns_1_0_4000_2000_ci 65.2434
cs_0_0_0_7 ns_1_0_4000_2000_ci 0 1.89252e-12
is_0_0_0_8 0 ns_1_0_6000_2000 pwl(0 0.0 6.235e-01ns 0.0  6.735e-01ns 2.3e-02  9.254e-01ns 2.3e-02  9.754e-01ns 0.0)
rsesr_0_0_0_8 ns_1_0_6000_2000 ns_1_0_6000_2000_ci 12.9133
cs_0_0_0_8 ns_1_0_6000_2000_ci 0 1.52526e-11
is_0_0_0_9 0 ns_1_0_8000_2000 pwl(0 0.0 5.687e-02ns 0.0  1.069e-01ns 3.2e-02  3.401e-01ns 3.2e-02  3.901e-01ns 0.0)
rsesr_0_0_0_9 ns_1_0_8000_2000 ns_1_0_8000_2000_ci 9.92637
cs_0_0_0_9 ns_1_0_8000_2000_ci 0 7.1091e-12
is_0_0_0_10 0 ns_1_0_0_4000 pwl(0 0.0 3.833e-01ns 0.0  4.333e-01ns 3.4e-03  8.404e-01ns 3.4e-03  8.904e-01ns 0.0)
rsesr_0_0_0_10 ns_1_0_0_4000 ns_1_0_0_4000_ci 58.2021
cs_0_0_0_10 ns_1_0_0_4000_ci 0 2.48272e-12
is_0_0_0_11 0 ns_1_0_2000_4000 pwl(0 0.0 2.649e-01ns 0.0  3.149e-01ns 2.5e-02  4.092e-01ns 2.5e-02  4.592e-01ns 0.0)
rsesr_0_0_0_11 ns_1_0_2000_4000 ns_1_0_2000_4000_ci 24.8615
cs_0_0_0_11 ns_1_0_2000_4000_ci 0 6.80545e-13
is_0_0_0_12 0 ns_1_0_4000_4000 pwl(0 0.0 2.723e-01ns 0.0  3.223e-01ns 6.0e-03  6.473e-01ns 6.0e-03  6.973e-01ns 0.0)
rsesr_0_0_0_12 ns_1_0_4000_4000 ns_1_0_4000_4000_ci 40.0358
cs_0_0_0_12 ns_1_0_4000_4000_ci 0 1.92794e-12
is_0_0_0_13 0 ns_1_0_6000_4000 pwl(0 0.0 8.653e-01ns 0.0  9.153e-01ns 5.6e-02  9.438e-01ns 5.6e-02  9.938e-01ns 0.0)
rsesr_0_0_0_13 ns_1_0_6000_4000 ns_1_0_6000_4000_ci 20.6652
cs_0_0_0_13 ns_1_0_6000_4000_ci 0 3.81894e-12
is_0_0_0_14 0 ns_1_0_8000_4000 pwl(0 0.0 4.234e-01ns 0.0  4.734e-01ns 7.8e-03  8.005e-01ns 7.8e-03  8.505e-01ns 0.0)
rsesr_0_0_0_14 ns_1_0_8000_4000 ns_1_0_8000_4000_ci 30.7258
cs_0_0_0_14 ns_1_0_8000_4000_ci 0 1.69867e-12
is_0_0_0_15 0 ns_1_0_0_6000 pwl(0 0.0 3.023e-01ns 0.0  3.523e-01ns 6.3e-02  3.819e-01ns 6.3e-02  4.319e-01ns 0.0)
rsesr_0_0_0_15 ns_1_0_0_6000 ns_1_0_0_6000_ci 17.8912
cs_0_0_0_15 ns_1_0_0_6000_ci 0 1.3999e-12
is_0_0_0_16 0 ns_1_0_2000_6000 pwl(0 0.0 6.371e-01ns 0.0  6.871e-01ns 3.6e-02  8.362e-01ns 3.6e-02  8.862e-01ns 0.0)
rsesr_0_0_0_16 ns_1_0_2000_6000 ns_1_0_2000_6000_ci 12.5926
cs_0_0_0_16 ns_1_0_2000_6000_ci 0 1.58593e-11
is_0_0_0_17 0 ns_1_0_4000_6000 pwl(0 0.0 5.143e-01ns 0.0  5.643e-01ns 1.4e-02  9.233e-01ns 1.4e-02  9.733e-01ns 0.0)
rsesr_0_0_0_17 ns_1_0_4000_6000 ns_1_0_4000_6000_ci 15.5514
cs_0_0_0_17 ns_1_0_4000_6000_ci 0 8.91503e-14
is_0_0_0_18 0 ns_1_0_6000_6000 pwl(0 0.0 5.280e-01ns 0.0  5.780e-01ns 4.9e-02  6.892e-01ns 4.9e-02  7.392e-01ns 0.0)
rsesr_0_0_0_18 ns_1_0_6000_6000 ns_1_0_6000_6000_ci 11.4542
cs_0_0_0_18 ns_1_0_6000_6000_ci 0 6.49753e-12
is_0_0_0_19 0 ns_1_0_8000_6000 pwl(0 0.0 8.517e-01ns 0.0  9.017e-01ns 1.1e-01  9.096e-01ns 1.1e-01  9.596e-01ns 0.0)
rsesr_0_0_0_19 ns_1_0_8000_6000 ns_1_0_8000_6000_ci 13.8692
cs_0_0_0_19 ns_1_0_8000_6000_ci 0 1.07088e-11
is_0_0_0_20 0 ns_1_0_0_8000 pwl(0 0.0 7.319e-01ns 0.0  7.819e-01ns 4.8e-02  8.112e-01ns 4.8e-02  8.612e-01ns 0.0)
rsesr_0_0_0_20 ns_1_0_0_8000 ns_1_0_0_8000_ci 23.8939
cs_0_0_0_20 ns_1_0_0_8000_ci 0 8.90156e-13
is_0_0_0_21 0 ns_1_0_2000_8000 pwl(0 0.0 6.127e-01ns 0.0  6.627e-01ns 1.2e-02  8.181e-01ns 1.2e-02  8.681e-01ns 0.0)
rsesr_0_0_0_21 ns_1_0_2000_8000 ns_1_0_2000_8000_ci 38.064
cs_0_0_0_21 ns_1_0_2000_8000_ci 0 2.48787e-12
is_0_0_0_22 0 ns_1_0_4000_8000 pwl(0 0.0 1.752e-01ns 0.0  2.252e-01ns 1.3e-02  5.198e-01ns 1.3e-02  5.698e-01ns 0.0)
rsesr_0_0_0_22 ns_1_0_4000_8000 ns_1_0_4000_8000_ci 19.8979
cs_0_0_0_22 ns_1_0_4000_8000_ci 0 4.82745e-12
is_0_0_0_23 0 ns_1_0_6000_8000 pwl(0 0.0 5.011e-01ns 0.0  5.511e-01ns 8.1e-03  7.168e-01ns 8.1e-03  7.668e-01ns 0.0)
rsesr_0_0_0_23 ns_1_0_6000_8000 ns_1_0_6000_8000_ci 51.654
cs_0_0_0_23 ns_1_0_6000_8000_ci 0 3.30393e-12
is_0_0_0_24 0 ns_1_0_8000_8000 pwl(0 0.0 8.343e-01ns 0.0  8.843e-01ns 5.4e-03  9.029e-01ns 5.4e-03  9.529e-01ns 0.0)
rsesr_0_0_0_24 ns_1_0_8000_8000 ns_1_0_8000_8000_ci 244.987
cs_0_0_0_24 ns_1_0_8000_8000_ci 0 1.71861e-13

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val152'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val153'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val154'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val155'
rd_add0 nd0 0 'esr31'
rd_add1 nd1 0 'esr32'
rd_add2 nd2 0 'esr33'
rd_add3 nd3 0 'esr34'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_6000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_4000_8000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_6000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_6000_6000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_8000_4000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_8000_8000  0.001

.ends chiplet5
